MM9 (VOUT1 net12 VSS VSS) nmos4
MM8 (net12 net12 VSS VSS) nmos4
MM7 (VOUT1 net12 net10 net14) pmos4
MM6 (net12 VSS net10 net14) pmos4
MM5 (net10 net1004 VDD VDD) pmos4
MM2 (VB1 VB1 VSS VSS) nmos4
MM10 (net1004 net1007 VSS VSS) nmos4
MM1 (VB1 net1004 VDD VDD) pmos4
MM0 (net1004 net1004 VDD VDD) pmos4
RRF (VDD net1007) resistor
MM0 (net1007 net1007 VSS VSS) nmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor